US05670505
To a mixture of 3,5-bis(trifluoromethyl)benzoic acid (1.15 g) and (3R)-1-benzyl-3-(1H-indol-3-yl-methyl)piperazine (1.61 g) in dichloromethane (80 ml) was added triethylamine (1.55 ml) at room temperature under nitrogen atmosphere. 2-Chloro-1-methylpyridinium iodide (1.37 g) was added, and the mixture was stirred at room temperature for 2.5 hours. The resulting mixture was poured into water (20 ml). The organic layer was washed successively with 0.5N hydrochloric acid, water, aqueous sodium bicarbonate solution and brine, and dried over magnesium sulfate. After evaporation under reduced pressure, the residue was chromatographed on silica gel with toluene - ethyl acetate (4:1) as an eluent to give (2R)-4-benzyl-1-[3,5-bis(trifluoromethyl)benzoyl]-2-(1H-indol-3-yl-methyl)piperazine (0.87 g) as a syrup.

reactant | 3,5-bis(trifluoromethyl)benzoic acid | 1.15 g | FC(C=1C=C(C(=O)O)C=C(C1)C(F)(F)F)(F)F | C9H4F6O2
reactant | (3R)-1-benzyl-3-(1H-indol-3-yl-methyl)piperazine | 1.61 g | C(C1=CC=CC=C1)N1C[C@H](NCC1)CC1=CNC2=CC=CC=C12 | C20H23N3
reactant | triethylamine | 1.55 ml | C(C)N(CC)CC | C6H15N
reactant | 2-Chloro-1-methylpyridinium iodide | 1.37 g | [I-].ClC1=[N+](C=CC=C1)C
solvent | dichloromethane | 80 ml | ClCCl | CH2Cl2
solvent | water | 20 ml | O | H2O
product | (2R)-4-benzyl-1-[3,5-bis(trifluoromethyl)benzoyl]-2-(1H-indol-3-yl-methyl)piperazine | 0.87 g | C(C1=CC=CC=C1)N1C[C@H](N(CC1)C(C1=CC(=CC(=C1)C(F)(F)F)C(F)(F)F)=O)CC1=CNC2=CC=CC=C12 | C29H25F6N3O
